US04831026
(3S,4S)-1-(1-Benzyloxycarbonyl-2-trifluoromethanesulfonyloxy-1-propenyl)-3-phthalimido-4-mesyloxymethylazetidin-2-one
In methylene chloride (40 ml) was dissolved (3S,4S)-1-(1-benzyloxycarbonyl-2-hydroxyl-1-propenyl)-3-phthalimido-4-mesyloxymethylazetidin-2-one (5.15 g, 10 mmol). The solution was cooled to -30° C. and, then, trifluoromethanesulfonic anhydride was added. Thereafter, a solution of triethylamine (1.9 ml) in methylene chloride (20 ml) was added in portions over a period of 10 minutes. After completion of the dropwise addition, the reaction mixture was stirred for 50 minutes. Then, it was made weakly acidic with a 10-fold dilution of concentrated hydrochloric acid and the temperature was returned to room temperature. The reaction mixture was washed 3 times with water (100 ml each), dried by addition of anhydrous sodium sulfate, and filtered. The filtrate was concentrated to give the title compound (6.21 g) as white powder.

reactant | (3S,4S)-1-(1-benzyloxycarbonyl-2-hydroxyl-1-propenyl)-3-phthalimido-4-mesyloxymethylazetidin-2-one | 10 mmol, 5.15 g | C(C1=CC=CC=C1)OC(=O)C(=C(C)O)N1C([C@H]([C@H]1COS(=O)(=O)C)N1C(C=2C(C1=O)=CC=CC2)=O)=O | C24H22N2O9S
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | triethylamine | 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (3S,4S)-1-(1-Benzyloxycarbonyl-2-trifluoromethanesulfonyloxy-1-propenyl)-3-phthalimido-4-mesyloxymethylazetidin-2-one | 6.21 g | C(C1=CC=CC=C1)OC(=O)C(=C(C)OS(=O)(=O)C(F)(F)F)N1C([C@H]([C@H]1COS(=O)(=O)C)N1C(C=2C(C1=O)=CC=CC2)=O)=O | C25H21F3N2O11S2
